US05665732
Step F: 2-(6-Fluoro-1H-indazol-3-ylmethyl)-1,2,3,4-tetrahydroisoquinoline
2-(1-Acetyl-6-fluoro-1H-indazol-3-ylmethyl)-1,2,3,4-tetrahydroisoquinoline (300 mg, 0.93 mmol) in CH2Cl2 /MeOH (1:1, 10 mL) was treated with sodium methoxide (2 mg) and stirred for 15 min at 20° C. The mixture was poured into saturated aqueous sodium bicarbonate solution (25 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried (MgSO4), concentrated and purified by flash chromatography (50% EtOAc in hexane) to give the title compound as a colourless oil. Conversion to the hydrogen oxalate salt in MeOH/Et2O gave colourless crystals (202 mg, 59%); mp 200°-201° C. (from MeOH/Et2O); 1H NMR (360 MHz, d6 -DMSO) d 7.93 (dd, J=8.8, 5.3 Hz, 1H, indazole), 7.30 (dd, J=9.7, 2.8 Hz, 1H, indazole), 7.15-6.97 (m, 5H, aromatic), 4.25 (s, 2H, Ar--CH2N), 3.88 (s, 2H, Ar--CH2N), 3.00 (bs, 2H, tetrahydroisoquinoline), 2.89 (bs, 2H, tetrahydroisoquinoline); MS (CI+) m/e 282 (M+H+); Anal. calcd for C17H16FN3. (COOH)2. H2O: C, 65.35; H, 5.33; N, 12.71. Found: C, 65.40; H, 5.24; N, 12.49.

reactant | 2-(1-Acetyl-6-fluoro-1H-indazol-3-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | 0.93 mmol, 300 mg | C(C)(=O)N1N=C(C2=CC=C(C=C12)F)CN1CC2=CC=CC=C2CC1 | C19H18FN3O
reactant | sodium methoxide | 2 mg | C[O-].[Na+]
reactant | sodium bicarbonate | 25 mL | C([O-])(O)=O.[Na+]
solvent | CH2Cl2 MeOH | 10 mL | C(Cl)Cl.CO
product | 2-(6-Fluoro-1H-indazol-3-ylmethyl)-1,2,3,4-tetrahydroisoquinoline | FC1=CC=C2C(=NNC2=C1)CN1CC2=CC=CC=C2CC1 | C17H16FN3
